US08912186B2
By a procedure similar to that of example 1.59.2, starting from 3-(4-chlorophenyl)-1-(4-iodophenyl)prop-2-en-1-one and diethyl malonate, diethyl 2-(1-(4-chlorophenyl)-3-(4-iodophenyl)-3-oxopropyl)malonate was obtained as beige coloured solid.

reactant | 3-(4-chlorophenyl)-1-(4-iodophenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)I | C15H10ClIO
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-(1-(4-chlorophenyl)-3-(4-iodophenyl)-3-oxopropyl)malonate | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)I)C(C(=O)OCC)C(=O)OCC | C22H22ClIO5
